US08648099B2
d) 5-Cyclopentyl-N-morpholino-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxamide
The title compound was synthesized in analogy to Example 1 using 5-cyclopentyl-6-(2,2,2-trifluoro-ethoxy)-3-pyridinecarboxylic acid and 4-morpholinamine (CAN 4319-49-7) as starting materials; MS (ESI) 372.1 (M−H)−.

reactant | 5-cyclopentyl-6-(2,2,2-trifluoro-ethoxy)-3-pyridinecarboxylic acid | C1(CCCC1)C=1C=C(C=NC1OCC(F)(F)F)C(=O)O | C13H14F3NO3
reactant | 4-morpholinamine | N1(CCOCC1)N | C4H10N2O
product | 5-Cyclopentyl-N-morpholino-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxamide | C1(CCCC1)C=1C=C(C=NC1OCC(F)(F)F)C(=O)NN1CCOCC1 | C17H22F3N3O3
